US05994378
A mixture of 3-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]propanol (0.40 g) and thionyl chloride (0.4 ml) in dichloromethane (5 ml) was stirred under reflux for 5 hours. After being cooled to room temperature, the solution was concentrated under reduced pressure. The resulting residue -was partitioned between aqueous sodium hydrogencarbonate solution and ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a 4-tert-butyl-2-[5-(3-chloropropyl)benzofuran-2-yl]thiazole (0.28 g).

reactant | 3-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]propanol | 0.40 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CCCO | C18H21NO2S
reactant | thionyl chloride | 0.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-tert-butyl-2-[5-(3-chloropropyl)benzofuran-2-yl]thiazole | 0.28 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CCCCl | C18H20ClNOS
